US07153855B2
In a similar manner as described in Example 1 from ethyl 2-bromobenzoate (50.0 g, 218 mmol) and 6-chloro-2-picoline (24 mL, 218 mmol), 1-(2-bromophenyl)-2-(6-chloro-2-pyridinyl)ethanone (52.4 9, 77%) was obtained as a yellow solid. 1H NMR (CDCl3): δ 7.53 (d, 1 H), 7.45 (d, 1 H), 7.25 (d, 1 H), 7.05 (d, 1 H), 6.97 (d, 1 H), 6.67 (d, 1H), 6.53 (d, 1H), 5.28 (s, 1H); MS m/z 310 (M+1).

reactant | ethyl 2-bromobenzoate | 218 mmol, 50.0 g | BrC1=C(C(=O)OCC)C=CC=C1 | C9H9BrO2
reactant | 6-chloro-2-picoline | 218 mmol, 24 mL | ClC1=CC=CC(=N1)C | C6H6ClN
product | 1-(2-bromophenyl)-2-(6-chloro-2-pyridinyl)ethanone | 77% | BrC1=C(C=CC=C1)C(CC1=NC(=CC=C1)Cl)=O | C13H9BrClNO
